US06509354B1
1.0 g (3.6 mmol) of 2-mercapto-4-(4-trifluoromethylphenyl)benzonitrile, 0.45 g (4.0 mmol) of potassium tert-butoxide and 0.5 g (4.1 mmol) of 3-propenyl bromide were stirred in 20 ml of N,N-dimethylformamide at room temperature for 1 hour. The resulting reaction mixture was poured into 20 ml of water and extracted with 50 ml of ethyl acetate twice. The ethyl acetate layer was washed with 50 ml of water twice and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 0.5 g of 2-(2-propenylthio)-4-(4-trifluoromethylphenyl)benzonitrile (yield 43.0%) as yellow crystals (m.p. 89-90° C.).

reactant | 2-mercapto-4-(4-trifluoromethylphenyl)benzonitrile | 3.6 mmol, 1.0 g | SC1=C(C#N)C=CC(=C1)C1=CC=C(C=C1)C(F)(F)F | C14H8F3NS
reactant | potassium tert-butoxide | 4.0 mmol, 0.45 g | CC(C)([O-])C.[K+]
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(2-propenylthio)-4-(4-trifluoromethylphenyl)benzonitrile | 0.5 g, yield 43.0% | C(C=C)SC1=C(C#N)C=CC(=C1)C1=CC=C(C=C1)C(F)(F)F | C17H12F3NS
